US06759554B2
N-Hexyl-3,5-dimethylaniline (FIG. 10, Entry 1)
Using the general procedure, 5-bromo-m-xylene (136 μL, 1.0 mmol) was coupled with n-hexylamine (198 μL, 1.5 mmol). Purification of the crude product by column chromatography on silica gel using hexane/ethyl acetate (20:1) as eluent afforded the desired product as a colorless oil (187 mg, 91% yield).

reactant | 5-bromo-m-xylene | 1.0 mmol, 136 μL | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | n-hexylamine | 1.5 mmol, 198 μL | C(CCCCC)N | C6H15N
product | N-Hexyl-3,5-dimethylaniline | 187 mg, 91% yield | C(CCCCC)NC1=CC(=CC(=C1)C)C | C14H23N
